US07425634B2
(82a) 1,4-dioxaspiro[4.5]dec-8-ylmethanol
A reflux condenser equipped with a Dean-Stark water separator was attached to a round bottom flask containing ethyl 4-cyclohexanonecarboxylate (5 ml, 31.4 mmol), ethylene glycol (1.93 ml, 34.5 mmol), p-toluenesulfonic acid monohydrate (200 mg, 1.05 mmol), and benzene (30 ml). The mixture was heated under reflux for 3 hours. To the reaction mixture, triethylamine (181 μl, 1.3 mmol) was added and the mixture was concentrated. A tetrahydrofuran solution of the resultant crude substance was added to a tetrahydrofuran (30 ml) suspension of lithium aluminum hydride (1.31 g, 34.5 mmol) at 0° C. After the mixture was stirred at room temperature for 7 hours, water (1.3 ml), a 5N aqueous sodium hydroxide solution (1.3 ml), and water (3.9 ml) were sequentially added to the mixture at 0° C. After dried over sodium sulfate, the mixture was filtrated. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (elution solvent: ethyl acetate/heptane=1/2, 1/1, 2/1) to obtain the title compound (4.6 g, yield: 85.1%) as a colorless oil.

reactant | ethyl 4-cyclohexanonecarboxylate | 31.4 mmol, 5 ml | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | ethylene glycol | 34.5 mmol, 1.93 ml | C(CO)O | C2H6O2
reactant | lithium aluminum hydride | 34.5 mmol, 1.31 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5N, 1.3 ml | [OH-].[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 1.05 mmol, 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | triethylamine | 1.3 mmol, 181 μl | C(C)N(CC)CC | C6H15N
solvent | water | 3.9 ml | O | H2O
solvent | water | 1.3 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1,4-dioxaspiro[4.5]dec-8-ylmethanol | 4.6 g, yield: 85.1% | O1CCOC12CCC(CC2)CO | C9H16O3
